US04515806
78 ml of 2-aminoethanol (1.3 moles) were added slowly over half an hour to a solution of 95 g of 1,1-bis(methylthio)-2-nitroethene (0.57 mole) in 500 ml of toluene at 80° C. After the addition, the mixture was held at 80° C. for half an hour, was cooled to room temperature and the solid formed was filtered off, washed with chloroform (2×100 ml portions) and was dried to give 107 g N,N'-bis(2-hydroxyethyl)-2-nitro-1,1-ethenediamine (97-98% yield) in yellowish crystal form. m.p. 145°-146° C.

reactant | 2-aminoethanol | 1.3 moles, 78 ml | NCCO | C2H7NO
reactant | 1,1-bis(methylthio)-2-nitroethene | 0.57 mole, 95 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | N,N'-bis(2-hydroxyethyl)-2-nitro-1,1-ethenediamine | 107 g, 97-98% yield | OCCNC(=C[N+](=O)[O-])NCCO | C6H13N3O4
